US06897307B2
Preparation of N-[4-[[6-(Cyclobutylamino)-9H-purin-2-yl]amino]phenyl]-N-methylacetamide hydrochloride by an Acid Catalyzed Process
A 5 L, 4-neck, round-bottomed flask fitted with a mechanical stirrer, digital thermometer, heating and cooling capabilities, condenser, addition funnel, and nitrogen inlet and outlet, was flushed with nitrogen and charged with 479.8 g (2.15 moles) of 2-chloro-N-cyclobutyl-9H-purin-6-amine, 387.5 g (2.36 moles) of N-(4-aminophenyl)-N-methyl-acetamide, and 3.6 L of dry 1-butanol. The mixture was stirred and 2.72 mL (0.02 moles) of chlorotrimethylsilane was added at 25° C. The mixture was heated to 117° C. over about 50 minutes. The reaction temperature and stirring was maintained for 12.5 hours. The mixture was cooled to 50° C. over a period of 2 hours. A temperature of 50° C. was maintained for an additional hour. The product was filtered and the filter cake was washed three times with a total of 1.2 L of 1-butanol. The filter cake was collected and dried at 50° C./20 mm Hg for 24 hours to give 514.3 g of light yellow crystalline solid. Theoretical yield was 832.0 g. Actual yield was 61.8%.

reactant | 2-chloro-N-cyclobutyl-9H-purin-6-amine | 2.15 moles, 479.8 g | ClC1=NC(=C2N=CNC2=N1)NC1CCC1 | C9H10ClN5
reactant | N-(4-aminophenyl)-N-methyl-acetamide | 2.36 moles, 387.5 g | NC1=CC=C(C=C1)N(C(C)=O)C | C9H12N2O
catalyst | chlorotrimethylsilane | 0.02 moles, 2.72 mL | Cl[Si](C)(C)C | C3H9ClSi
solvent | 1-butanol | 3.6 L | C(CCC)O | C4H10O
product | N-[4-[[6-(Cyclobutylamino)-9H-purin-2-yl]amino]phenyl]-N-methylacetamide hydrochloride | 514.3 g, yield was 61.8% | Cl.C1(CCC1)NC1=C2N=CNC2=NC(=N1)NC1=CC=C(C=C1)N(C(C)=O)C | InChI=1S/C18H21N7O.ClH/c1-11(26)25(2)14-8-6-13(7-9-14)22-18-23-16-15(19-10-20-16)17(24-18)21-12-4-3-5-12;/h6-10,12H,3-5H2,1-2H3,(H3,19,20,21,22,23,24);1H
